US07964608B2
1-Cyclopentyl-3-(3,4-dimethyl-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (106 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.32 mmol) and 1-isocyanato-3,4-dimethyl-benzene (0.48 mmol) following general procedure C. LCMS: m/z 416 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.32 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-isocyanato-3,4-dimethyl-benzene | 0.48 mmol | N(=C=O)C1=CC(=C(C=C1)C)C | C9H9NO
product | 1-Cyclopentyl-3-(3,4-dimethyl-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 106 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=C(C=C2)C)C)=O | C25H25N3O3
